simulator lang=spectre
global 0

ahdl_include "dut.va"

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0
Vtrig (arrival_mark 0) vsource type=pulse val0=0 val1=0.9 delay=2n rise=50p fall=50p width=1n period=14n

XDUT (arrival_mark vdd vss one_shot_level) v2_ext_pulse_stretcher_014

tran tran stop=120n maxstep=500p
save arrival_mark one_shot_level
